US03987047
1,2,4,5-Tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | C1CNCCC2=NC=3C=CC=CC3C=C21 | C13H14N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 64% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C=C2CC1 | InChI=1S/C16H18N2O2.ClH/c1-2-20-16(19)18-9-7-13-11-12-5-3-4-6-14(12)17-15(13)8-10-18;/h3-6,11H,2,7-10H2,1H3;1H
